US07129268B2
To a solution of 3,3-bis-(2-furanyl)-acrylic acid ethyl ester (1.31 g, 5.66mmol) in THF (15 ml) was added a solution of DIBAL-H (1 M in toluene, 25.5 ml, 25.5 mmol) at −10° C. The reaction mixture was stirred for a further 2 h. A solution of ammonium chloride (2 ml) was added followed by methylene chloride (250 ml) and decalite. The mixture was filtered and the filter was washed with additional methylene chloride (500 ml) and ethanol (100 ml). The combined organic phases were evaporated to give crude 3,3-bis-(2-furanyl)-prop-2-en-1-ol in 953 mg (88%) yield.

reactant | 3,3-bis-(2-furanyl)-acrylic acid ethyl ester | 5.66mmol, 1.31 g | C(C)OC(C=C(C=1OC=CC1)C=1OC=CC1)=O | C13H12O4
reactant | DIBAL-H | 25.5 mmol, 1 M, 25.5 ml | CC(C)C[AlH]CC(C)C
reactant | ammonium chloride | 2 ml | [Cl-].[NH4+]
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3,3-bis-(2-furanyl)-prop-2-en-1-ol | O1C(=CC=C1)C(=CCO)C=1OC=CC1 | C11H10O3
